US04362728
Dimethyl (cyanoimido)dithiocarbonate (0.12 g.) was added to a solution of 2-[2-(2,2,2-trifluoroethyl)guanidino]-6-(2--aminoethylthiomethyl)pyridine (0.23 g.) in acetonitrile (5 ml.) and the solution left at room temperature for 18 hours and then evaporated to dryness. The residue was dissolved in 33% w/v methylamine in ethanol (5 ml.) and the solution left at room temperature for 18 hours and then evaporated to dryness. The residue was purified by preparative thin layer chromatography using ethyl acetate/methanol/ammonia 6:1:0.5 v/v/v as the developing solvent to give 2-[2-(2,2,2-trifluoroethyl)-guanidino]-6-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]pyridine (0.12 g.) characterised as the hydrogen maleate, m.p. 137°-140° after recrystallisation from acetone.

reactant | 2-[2-(2,2,2-trifluoroethyl)guanidino]-6-(2--aminoethylthiomethyl)pyridine | 0.23 g | FC(CN=C(NC1=NC(=CC=C1)CSCCN)N)(F)F | C11H16F3N5S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-[2-(2,2,2-trifluoroethyl)-guanidino]-6-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]pyridine | 0.12 g | FC(CN=C(NC1=NC(=CC=C1)CSCCNC(=NC#N)NC)N)(F)F | C14H19F3N8S
